US08247403B2
(5) 9-cyclopropyl-8-fluoro-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A solution of 4-benzyl-9-cyclopropyl-8-fluoro-2,3,4,5-tetrahydro-1,4-benzoxazepine (408 mg, 1.37 mmol) and 1-chloroethyl chloroformate (0.178 ml, 1.65 mmol) in toluene (10 ml) was stirred at 90° C. for 2 hr, and the solvent was evaporated under reduced pressure. Methanol (10 ml) was added to the residue, the mixture was stirred at 80° C. for 1 hr, and diisopropyl ether (10 ml) was added. The precipitate was collected by filtration and recrystallized from a mixed solvent of ethanol and diisopropyl ether to give the desired product (295 mg, 88.5%) as a solid.

reactant | 4-benzyl-9-cyclopropyl-8-fluoro-2,3,4,5-tetrahydro-1,4-benzoxazepine | 1.37 mmol, 408 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)C=CC(=C2C2CC2)F | C19H20FNO
reactant | 1-chloroethyl chloroformate | 1.65 mmol, 0.178 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 9-cyclopropyl-8-fluoro-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 295 mg, 88.5% | Cl.C1(CC1)C1=C(C=CC=2CNCCOC21)F | InChI=1S/C12H14FNO.ClH/c13-10-4-3-9-7-14-5-6-15-12(9)11(10)8-1-2-8;/h3-4,8,14H,1-2,5-7H2;1H
